US08106064B2
3-(5-Bromo-2,6-dioxo-1,2,3,6-tetrahydro-pyrimidine-4-carbonyl)-5-methyl-benzonitrile (168):
To a solution of 3-(5-bromo-2,6-dimethoxy-pyrimidine-4-carbonyl)-5-methyl-benzonitrile (0.158 g, 0.436 mmol) in acetyl bromide (2.0 mL) was heated at 65° C. for 24 h. Reaction mixture was concentrated and flash column chromatography (silica gel, 0 to 80% ethyl acetate/hexane) to give a yellow film (0.0802 g, 55%). 1H NMR (300 MHz, CD3OD): δ 8.18 (s, 1H), 8.09 (s, 1H), 7.90 (s, 1H), 2.46 (s, 3H). Mass spectrum: 335.3 (M+H)+.

reactant | 3-(5-bromo-2,6-dimethoxy-pyrimidine-4-carbonyl)-5-methyl-benzonitrile | 0.436 mmol, 0.158 g | BrC=1C(=NC(=NC1OC)OC)C(=O)C=1C=C(C#N)C=C(C1)C | C15H12BrN3O3
solvent | acetyl bromide | 2.0 mL | C(C)(=O)Br | C2H3BrO
product | 3-(5-Bromo-2,6-dioxo-1,2,3,6-tetrahydro-pyrimidine-4-carbonyl)-5-methyl-benzonitrile | BrC1=C(NC(NC1=O)=O)C(=O)C=1C=C(C#N)C=C(C1)C | C13H8BrN3O3
